US06313308B1
2-(4-Iodophenyl) oxazole (Iodooxazole)
Under an inert atmosphere, methanesulfonic acid (141 g, 1.46 mol) was added to a mixture of amide acetal (25 g, 74.6 mmol) and phosphorus pentoxide (25 g, 176 mmol). The reaction mixture was heated at 140° C. for about 12 hours. The reaction mixture was cooled to 0° C. and 150 mL of water was added while maintaining the reaction temperature below 40° C. The pH of the reaction mixture was adjusted to 12.5-13 with 50% sodium hydroxide and the reaction mixture was heated at ca. 45° C. to hydrolyze the carcinogenic byproduct methyl methanesulfonate. The reaction mixture was cooled to ambient temperature and 100 mL of tetrahydrofuran was added. The pH was adjusted to 5 with concentrated hydrochloric acid and the layers were separated. The spent aqueous phase was extracted twice with 100 mL of acetone. The rich organic extracts were combined and 200 mL of water was added to effect crystallization. The crystal slurry was filtered, washed and dried in vacuo at <50° C., to give 17 g (84 M %, HPLC area % >99) of the title compound.

reactant | methanesulfonic acid | 1.46 mol, 141 g | CS(=O)(=O)O | CH4O3S
reactant | N-(2,2-Dimethoxyethyl)-4-iodobenzamide | 74.6 mmol, 25 g | COC(CNC(C1=CC=C(C=C1)I)=O)OC | C11H14INO3
reactant | phosphorus pentoxide | 176 mmol, 25 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl methanesulfonate | CS(=O)(=O)OC | C2H6O3S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 2-(4-Iodophenyl) oxazole | IC1=CC=C(C=C1)C=1OC=CN1 | C9H6INO
